US08133998B2
To a suspension of 5-methyl-6-(pyrrolidine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one, (0.06 g, 0.23 mmol) in CH3CN (5 mL) was added K2CO3 (0.032 g, 0.23 mm (38 mg, 0.23 mmol), and 2-chloro-1-(4-(3-chlorophenyl)piperazin-1-yl)ethanone, (0.062 g, 0.23 mmol). The reaction mixture was refluxed overnight and then quenched with H2O (20 mL). The resultant precipitate was filtered and dried to provide a crude solid which was purified by flash chromatography (Et2O:DCM, 1:1) providing 0.025 g of pure 3-(2-(4-(3-chlorophenyl)piperazin-1-yl)-2-oxoethyl)-5-methyl-6-(pyrrolidine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one, (yield: 22%).

reactant | 5-methyl-6-(pyrrolidine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.23 mmol, 0.06 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)N2CCCC2 | C12H13N3O2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-1-(4-(3-chlorophenyl)piperazin-1-yl)ethanone | 0.23 mmol, 0.062 g | ClCC(=O)N1CCN(CC1)C1=CC(=CC=C1)Cl | C12H14Cl2N2O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | 3-(2-(4-(3-chlorophenyl)piperazin-1-yl)-2-oxoethyl)-5-methyl-6-(pyrrolidine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.025 g, yield: 22% | ClC=1C=C(C=CC1)N1CCN(CC1)C(CN1C=NC2=C(C1=O)C(=C(S2)C(=O)N2CCCC2)C)=O | C24H26ClN5O3S
